US06552107B1
100 g of cardanol in solvents (100 cm3) such as ethyl acetate, methanol and the like was hydrogenated in a parr hydrogenator at 30-60 psi pressure by using catalysts (50 mg) such as palladised carbon, platinum oxide, raney nickel and the like. at 30-100° C. The hydrogenation was carried out for 2-4 hrs. The solution was filtered to remove the catalyst and methanol stripped off. The crude 3-pentadecyl phenol was distilled under vacuum (4 mm of Hg). The fraction which distilled at 200° C. to 210° C. was collected. The white solid obtained was recrystallised from hexane twice to obtain pure 3-pentadecyl phenol.

reactant | cardanol | 100 g | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | raney nickel | [Ni] | Ni
catalyst | platinum oxide | [Pt]=O
solvent | methanol | CO | CH4O
product | 3-pentadecyl phenol | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)O | C21H36O
